US07951826B2
4-(2-Hydroxy-ethoxy)-benzoic acid methyl ester
Methyl 4-hydroxybenzoate (1.52 g, 10 mmol), 2-chloroethanol (960 mg, 12 mmol), potassium iodide (100 mg, 0.6 mmol) and cesium carbonate (4.56 g, 14 mmol) are combined with dry THF (50 mL) and the reaction mixture is stirred under reflux for 24 h. Additional chloroethanol (960 mg), cesium carbonate (4.56 g) and potassium iodide (100 mg) are added to the mixture and stirred under reflux for 24 h. The reaction mixture is cooled to room temperature and water and CH2Cl2 are added. The separated CH2Cl2 layer is dried over Na2SO4, filtered and evaporated. The crude product is purified using silica-gel column chromatography (hexane:EtOAc=3:1) to give the titled compound (862 mg, 44%). NMR (CDCl3): δ 8.02 (d, 2H, J=9.0 Hz), 6.97 (d, 2H, J=9.0 Hz), 4.17 (t, 2H, J=5.0 Hz), 4.03 (m, 2H), 3.92 (s, 3H).

reactant | Methyl 4-hydroxybenzoate | 10 mmol, 1.52 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-chloroethanol | 12 mmol, 960 mg | ClCCO | C2H5ClO
reactant | potassium iodide | 0.6 mmol, 100 mg | [I-].[K+]
reactant | cesium carbonate | 14 mmol, 4.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroethanol | 960 mg | ClC(C)O | C2H5ClO
reactant | cesium carbonate | 4.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 100 mg | [I-].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(2-Hydroxy-ethoxy)-benzoic acid methyl ester | 862 mg, 44% | COC(C1=CC=C(C=C1)OCCO)=O | C10H12O4
